US09255089B2
A mixture of 4-Bromo-2-chloro-N-(2,2,2-trifluoroethyl)aniline (5280 mg, 18.3 mmol), 3,5-dimethylisoxazole-4-boronic acid, pinacol ester (4082.76 mg, 18.3 mmol), PEPPSI″-IPr catalyst (1247.24 mg, 1.83 mmol), Cesium carbonate (17889.52 mg, 54.91 mmol) in 120 mL DME:H2O (2:1) was heated to 90° C. under argon. The reaction mixture was then cooled and partitioned between water and ethyl acetate. The organic layer was washed with water then brine and dried over sodium sulfate. Purification on silica gel (Hexanes/EtOAc) afforded 2-chloro-4-(3,5-dimethylisoxazol-4-yl)-N-(2,2,2-trifluoroethyl)aniline.

reactant | 4-Bromo-2-chloro-N-(2,2,2-trifluoroethyl)aniline | 18.3 mmol, 5280 mg | BrC1=CC(=C(NCC(F)(F)F)C=C1)Cl | C8H6BrClF3N
reactant | 3,5-dimethylisoxazole-4-boronic acid | CC1=NOC(=C1B(O)O)C | C5H8BNO3
reactant | Cesium carbonate | 54.91 mmol, 17889.52 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DME H2O | 120 mL | COCCOC.O
product | 2-chloro-4-(3,5-dimethylisoxazol-4-yl)-N-(2,2,2-trifluoroethyl)aniline | ClC1=C(NCC(F)(F)F)C=CC(=C1)C=1C(=NOC1C)C | C13H12ClF3N2O
